US08110585B2
methyl 2,1-benzisothiazole-4-carboxylate
To a solution of methyl 2-methyl-3-(sulfinylamino)benzoate (15.0 g, 71.0 mmol) in benzene (200 mL) was added a solution of N-sulfinylmethanesulfonamide (10.0 g, 71.0 mmol) and pyridine (9.19 mL, 114 mmol) in benzene (80 mL) at 0° C. The reaction mixture was heated under reflux for 18 hr, water was added, and the mixture was extracted with dichloromethane. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80) to give the title compound (5.0 g, yield 36%).

reactant | methyl 2-methyl-3-(sulfinylamino)benzoate | 71.0 mmol, 15.0 g | CC1=C(C(=O)OC)C=CC=C1N=S=O | C9H9NO3S
reactant | N-sulfinylmethanesulfonamide | 71.0 mmol, 10.0 g | S(=O)=NS(=O)(=O)C | CH3NO3S2
reactant | pyridine | 114 mmol, 9.19 mL | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 mL | C1=CC=CC=C1 | C6H6
product | methyl 2,1-benzisothiazole-4-carboxylate | 5.0 g, yield 36% | N=1SC=C2C1C=CC=C2C(=O)OC | C9H7NO2S
